US04943569
2.6 g of 1-(di-p-anisylmethyl)-3-(1hydroxyethyl)-4-p-methoxybenzyloxycarbonylmethyl-2-azetidinone was dissolved in 15 ml of dried methylene chloride, and 1.22 g of 4-dimethylaminopyridine was added thereto. Under ice-cooling, a solution of 1.3 g of p-nitrobenzyl chloroformate in 7 ml of dried methylene chloride was added dropwise to the mixture, followed by stirring at room temperature for 1 hours. To the reaction mixture were added methylene chloride and water, and the methylene chloride layer was washed successively with a 1N hydrochloric acid aqueous solution, water, a 5% aqueous solution of sodium bicarbonate and water, and dried over sodium sulfate. The solvent was removed by distillation, and the residue was purified by silica gel chromatography to obtain 2.2 g of 1-(di-p-anisylmethyl)-3-(1-p-nitrobenzyloxycarbonyloxyethyl)-4-p-methoxybenzyloxycarbonylmethyl-2-azetidinone.

reactant | 1-(di-p-anisylmethyl)-3-(1hydroxyethyl)-4-p-methoxybenzyloxycarbonylmethyl-2-azetidinone | 2.6 g | C(C1=CC=C(C=C1)OC)C(N1C(C(C1CC(=O)OCC1=CC=C(C=C1)OC)C(C)O)=O)CC1=CC=C(C=C1)OC | C32H37NO7
reactant | p-nitrobenzyl chloroformate | 1.3 g | ClC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C8H6ClNO4
reactant | water | O | H2O
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 1.22 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 7 ml | C(Cl)Cl | CH2Cl2
product | 1-(di-p-anisylmethyl)-3-(1-p-nitrobenzyloxycarbonyloxyethyl)-4-p-methoxybenzyloxycarbonylmethyl-2-azetidinone | 2.2 g | C(C1=CC=C(C=C1)OC)C(N1C(C(C1CC(=O)OCC1=CC=C(C=C1)OC)C(C)OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)CC1=CC=C(C=C1)OC | C40H42N2O11
